US05719151
Synthesis of Ethyl 3-propenoylaminobenzoate (Compound 11)
Propenoyl chloride (668 mg, 600 ul, 7.4 mMole) was added dropwise to an ice-cold solution of ethyl 3-aminobenzoate (2.0 gm, 12 mMole) in 10 ml of acetone. The solution was stirred for 30 minutes on ice and then for 30 minutes at room temperature. 50 ml of water was added and the yellowish oil was separated by decantation. It was washed with water and then dissolved in 15 ml of diethl ether. This solution was washed with 10% (w/v) sodium bicarbonate, water and then dried over anhydrous sodium carbonate. The ether was evaporated and a white creamy product was crystallized from ethanol. The overall yield was 37%, and the melting point of the product was 93° C. to 94° C.

reactant | Propenoyl chloride | 7.4 mMole, 600 ul, 668 mg | C(C=C)(=O)Cl | C3H3ClO
reactant | ethyl 3-aminobenzoate | 12 mMole, 2.0 gm | NC=1C=C(C(=O)OCC)C=CC1 | C9H11NO2
reactant | water | 50 ml | O | H2O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | Ethyl 3-propenoylaminobenzoate | yield was 37% | C(C=C)(=O)NC=1C=C(C(=O)OCC)C=CC1 | C12H13NO3
